US07687664B2
Methyl (4′-methoxy-3′-(2-propynyloxy)biphenyl-3-yl)acetate
207 mg methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate was dissolved in 3 ml N,N-dimethylformamide, 0.17 ml propargyl bromide and 150 mg potassium carbonate were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with 1 N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 221 mg of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate | 207 mg | OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C16H16O4
reactant | propargyl bromide | 0.17 ml | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (4′-methoxy-3′-(2-propynyloxy)biphenyl-3-yl)acetate | 221 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)OC)OCC#C | C19H18O4
